US08048894B2
Method 10. Preparation of Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate
6-Chloro-1-methyl-1H-pyrido[3,4-d][1,3]oxazine-2,4-dione. The title compound was prepared analogously to method 6(b) from 2-chloro-5-(methylamino)isonicotinic acid and phosgene.

reactant | 6-Chloro-1-methyl-1H-pyrido[3,4-d][1,3]oxazine-2,4-dione | ClC1=CC2=C(N(C(OC2=O)=O)C)C=N1 | C8H5ClN2O3
reactant | 2-chloro-5-(methylamino)isonicotinic acid | ClC=1C=C(C(=O)O)C(=CN1)NC | C7H7ClN2O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate | ClC=1C=C2C(=C(C(N(C2=CN1)C)=O)C(=O)OC)O | C11H9ClN2O4
